US08895744B2
3-chloro-6-(2′-phenylethyl)-9H-pyrido[2,3-b]indole (R351)
To a solution of 9-(benzenesulfonyl)-3-chloro-6-(2′-phenylethyl)-9H-pyrido[2,3-b]indole (170 mg, 0.38 mmol, 1 equiv.) in THF (18 ml) under argon TBAF 1M in THF (1.91 ml, 1.91 mmol, 5 equiv.) was added dropwise. The reaction was carried out at reflux for 4 hours and then evaporated. The crude product (brown oil) was purified over silica gel chromatography (eluant AcOEt/PE 1:1) to afford the product R351 as a white solid (108 mg, 0.35 mmol) in 91% yield. mp=216-220° C.; IR 3111, 3028, 2921, 2851, 1600, 1490, 1453, 1389, 1271, 1236, 1087, 1030, 931, 732, 682 cm−1; 1H NMR (300 MHz, DMSO d6) δ 12.31 (br s, 1H, H9), 9.02 (d, 1H, J=2.5 Hz, H2), 8.80 (d, 1H, J=2.4 Hz, H4), 8.48 (s, 1H, H5), 7.85-7.77 (m, 2H, H8+H7), 7.72 (m, 4H, CHPh), 7.61-7.57 (m, 1H, CHPh), 3.46-3.36 (m, 4H, 2CH2); 13C NMR (75 MHz, DMSO d6) δ 150.3 (C), 143.8 (CH), 141.6 (C), 138.2 (C), 133.0 (C), 128.4 (2×CH), 128.3 (CH), 128.2 (2×CH), 127.8 (CH), 125.8 (CH), 121.5 (C), 120.9 (CH), 119.6 (C), 116.3 (C), 111.2 (CH), 37.7 (CH2), 37.3 (CH2); MS (+ESI) [M+H+]=307.2

reactant | 9-(benzenesulfonyl)-3-chloro-6-(2′-phenylethyl)-9H-pyrido[2,3-b]indole | 0.38 mmol, 170 mg, 1 equiv. | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=CC(=CC=C13)CCC1=CC=CC=C1)C=C(C=N2)Cl | C25H19ClN2O2S
solvent | THF | 18 ml | C1CCOC1 | C4H8O
solvent | THF | 1.91 mmol, 1.91 ml, 5 equiv. | C1CCOC1 | C4H8O
product | 3-chloro-6-(2′-phenylethyl)-9H-pyrido[2,3-b]indole | 0.35 mmol, 108 mg, 91% yield | ClC1=CC2=C(NC3=CC=C(C=C23)CCC2=CC=CC=C2)N=C1 | C19H15ClN2
